US06235731B1
Concentrated hydrochloric acid (4.0 ml) was added to N-[3-(4-tert-butoxycarbonyl-2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (1.53 g, 3.34 mmol) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated in vacuo to give N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride as an orange amorphous powder(1.53 g, quant.).

reactant | hydrochloric acid | 4.0 ml | Cl | ClH
reactant | N-[3-(4-tert-butoxycarbonyl-2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 3.34 mmol, 1.53 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C22H27N5O4S
product | N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.O=C1N(CCNC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C17H19N5O2S.2ClH/c23-15-11-18-6-8-21(15)7-2-5-19-17(24)13-9-12-10-20-14-3-1-4-16(25-13)22(12)14;;/h1,3-4,9-10,18H,2,5-8,11H2,(H,19,24);2*1H
